US08357635B2
Preparation of trans 1-[2-(2,4,6-trichloro-phenyl)-cyclopropyl]-ethanone
A round bottom flask equipped with magnetic stirrer, nitrogen inlet and additional funnel was charged with trimethylsulfoxonium iodide (106 mg, 0.40 mmol), DMSO (2.5 ml) and powdered sodium hydroxide (0.18 mg, 0.44 mmol). The suspension was stirred for 1.0 hour at ambient temperature to yield a solution. So prepared solution was added drop wise at ambient temperature to a solution of (E)-4-(2,4,6-trichloro-phenyl)-but-3-en-2-one (0.10 g, 0.40 mmol) prepared as described in example P32 in DMSO (2.5 ml). The reaction mixture was stirred for 0.5 hours, poured onto ice water (10 ml) and extracted with ether (3×5 ml). Combined organic layers were washed with water, brine and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (25 g) (eluent: n-hexane/ethyl acetate 20:1) to afford 60 mg (57% of theory) of trans 1-[2-(2,4,6-trichloro-phenyl)-cyclopropyl]-ethyanone in form of a pale yellow liquid.

reactant | trimethylsulfoxonium iodide | 0.40 mmol, 106 mg | [I-].C[S+](=O)(C)C
reactant | sodium hydroxide | 0.44 mmol, 0.18 mg | [OH-].[Na+]
reactant | (E)-4-(2,4,6-trichloro-phenyl)-but-3-en-2-one | 0.40 mmol, 0.10 g | ClC1=C(C(=CC(=C1)Cl)Cl)/C=C/C(C)=O | C10H7Cl3O
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
product | trans 1-[2-(2,4,6-trichloro-phenyl)-cyclopropyl]-ethanone | ClC1=C(C(=CC(=C1)Cl)Cl)[C@H]1[C@@H](C1)C(C)=O | C11H9Cl3O
